US04318914
1-(Methoxycarbonyl)propyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate
To a solution of 10.0 g. 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride in 200 ml. methylene chloride is added dropwise a solution of 3 g. methyl α-hydroxybutyrate and 5 g. triethylamine in 100 ml. ether. After 17 hours stirring at room temperature, the precipitate is collected and washed with several portions of ether. The ether solution is washed with water, dried and evaporated to yield the product as a white solid.

reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoyl chloride hydrochloride | Cl.FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(F)F
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methyl α-hydroxybutyrate | OC(C(=O)OC)CC | C5H10O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 1-(Methoxycarbonyl)propyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OC(CC)C(=O)OC)C=C1)(F)F | C28H44F3NO4
